US08809342B2
(+/−)-3-({5-[3-Methyl-1-(4′-trifluoromethyl-biphenyl-4-yl)-butylamino]-pyrimidine-2-carbonyl}-amino)-propionic acid ethyl ester (14.6 mg, 28.0 mmol) was dissolved in tetrahydrofuran (3 mL) and methanol (1 mL), and 1.0 M NaOH (1 mL, 1 mmol) was added. This was stirred at room temperature for 10 min. The reaction brought to pH 3 with 1 N HCl. The methanol was concentrated in vacuo and the residue was extracted twice with ethyl acetate. The combined organics were dried over MgSO4 and concentrated in vacuo to give crude product. Purification by reversed-phase HPLC gave (+/−)-3-({5-[3-methyl-1-(4′-trifluoromethyl-biphenyl-4-yl)-butylamino]-pyrimidine-2-carbonyl}-amino)-propionic acid (13.8 mg). Analytical LCMS: retention time 3.40 minutes (Waters Atlantic dC18 4.6×50 mm, 5 μm column; 5% acetonitrile/water (0.05% trifluoroacetic acid modifier) linear gradient to 95% acetonitrile/water over 4.0 minutes, hold at 95% acetonitrile/water for 1.0 minute; flow rate 2.0 mL/minute); MS (M+1): 501.3.

reactant | (+/−)-3-({5-[3-Methyl-1-(4′-trifluoromethyl-biphenyl-4-yl)-butylamino]-pyrimidine-2-carbonyl}-amino)-propionic acid ethyl ester | 28.0 mmol, 14.6 mg | C(C)OC(CCNC(=O)C1=NC=C(C=N1)NC(CC(C)C)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C28H31F3N4O3
reactant | NaOH | 1 mmol, 1.0 M, 1 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
product | (+/−)-3-({5-[3-methyl-1-(4′-trifluoromethyl-biphenyl-4-yl)-butylamino]-pyrimidine-2-carbonyl}-amino)-propionic acid | 13.8 mg | CC(CC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)NC=1C=NC(=NC1)C(=O)NCCC(=O)O)C | C26H27F3N4O3
